US06306860B1
2-[1-(3-Amino-2-pyridyl)piperazine4-yl-carbonyl]-5-[N-(2-hydroxyethyl)carbamoyl]pyridine
6-[1-(3-Amino-2-pyridyl)piperazine-4-yl-carbonyl]nicotinic acid (0.5 g) was added to a co-solvent of tetrahydrofuran (10 ml) and methylene chloride (10 ml) and with the successive addition of 1,3-dicyclohexylcarbodimide (0.65 g) and 1-hydroxybenzotriazole (0.23 g) at 15˜20° C., the mixture was stirred for 2 hours. With the addition of ethanolamine (0.18 ml), the mixture was stirred again at 20˜25° C. for 2 hours. Methylene chloride (30 ml) was added again to the mixture, washed with water 3 times, dried over magnesium sulfate and concentrated under reduced pressure. The concentrated residue was treated with ether for crystallization. The solid was recrystallized with ethanol and hexane to give a desired compound of 0.44 g (yield: 78%).

reactant | 6-[1-(3-Amino-2-pyridyl)piperazine-4-yl-carbonyl]nicotinic acid | 0.5 g | NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C(=O)O)C=C1 | C16H17N5O3
reactant | 1,3-dicyclohexylcarbodimide | 0.65 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 0.23 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ethanolamine | 0.18 ml | C(O)CN | C2H7NO
solvent | Methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[1-(3-Amino-2-pyridyl)piperazine4-yl-carbonyl]-5-[N-(2-hydroxyethyl)carbamoyl]pyridine | yield: 78% | NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C=C1)C(NCCO)=O | C18H22N6O3
